* Schematics Netlist *



M_M1         $N_0003 $N_0002 $N_0001 $N_0001 IRF255
D_D1         $N_0001 $N_0003 Dbreak-X 
D_D3         0 $N_0001 Dbreak-X 
M_M2         $N_0001 $N_0004 0 0 IRF255
E_E1         $N_0005 $N_0001 aa 0 1
E_E2         $N_0006 0 bb 0 1
E_E3         $N_0007 $N_0008 bb 0 1
D_D4         $N_0008 $N_0003 Dbreak-X 
M_M3         $N_0003 $N_0009 $N_0008 $N_0008 IRF255
R_R1         $N_0002 $N_0005  10  
R_R2         $N_0004 $N_0006  10  
R_R3         $N_0009 $N_0007  10  
R_R4         $N_0011 $N_0010  10  
V_V1         $N_0003 0 18
M_M4         $N_0008 $N_0011 0 0 IRF255
E_E4         $N_0010 0 aa 0 1
D_D5         0 $N_0008 Dbreak-X 
R_R6         0 $N_0012  33  
L_L2         0 $N_0012  5H  
Kn_K2         L_L3 L_L4     1
Kn_K1         L_L1 L_L2     1
L_L1         $N_0001 $N_0013  5uH  
L_L3         $N_0014 $N_0013  1mH  
L_L4         0 $N_0015  12mH  
L_L5         $N_0008 $N_0014  50uH  
R_R5         $N_0015 0  10  
V_V2         aa 0  
+PULSE 0 15 0 0.1u 0.1u 9u 20u
V_V3         bb 0  
+PULSE 0 15 10u 0.1u 0.1u 9u 20u
C_C1         $N_0015 0  5u  
